US07612212B2
To a solution of (2S,3S)-2-{(R)-2-amino-2-[4-((R)-2,3-dihydroxy-propoxy)-phenyl]-acetylamino}-N-(2-chloro-4-iodo-phenyl)-3-phenyl-butyramide (330 mg, 0.44 mmol) in dry, degassed tetrahydrofuran (5 mL) were added triethylamine (277 μL, 1.98 mmol) and chlorotrimethylsilane (230 μL, 1.76 mmol) and the mixture stirred at ambient temperature for 30 minutes. The resulting suspension was diluted with ethyl acetate (50 mL) and washed with brine (2×50 mL). The combined brine layers were back extracted with ethyl acetate (2×50 mL), the combined organic layers dried over sodium sulfate, filtered and concentrated in vacuo to give crude (2S,3S)-2-{(R)-2-amino-2-[4-((S)-2,3-bis-trimethylsilanyloxy-propoxy)-phenyl]-acetylamino}-N-(2-chloro-4-iodo-phenyl)-3-phenyl-butyramide which was of adequate purity for subsequent use in step 6 without additional purification (330 mg, 96%).

reactant | (2S,3S)-2-{(R)-2-amino-2-[4-((R)-2,3-dihydroxy-propoxy)-phenyl]-acetylamino}-N-(2-chloro-4-iodo-phenyl)-3-phenyl-butyramide | 0.44 mmol, 330 mg | N[C@@H](C(=O)N[C@H](C(=O)NC1=C(C=C(C=C1)I)Cl)[C@@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)OC[C@@H](CO)O | C27H29ClIN3O5
reactant | triethylamine | 1.98 mmol, 277 μL | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 1.76 mmol, 230 μL | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (2S,3S)-2-{(R)-2-amino-2-[4-((S)-2,3-bis-trimethylsilanyloxy-propoxy)-phenyl]-acetylamino}-N-(2-chloro-4-iodo-phenyl)-3-phenyl-butyramide | N[C@@H](C(=O)N[C@H](C(=O)NC1=C(C=C(C=C1)I)Cl)[C@@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)OC[C@@H](CO[Si](C)(C)C)O[Si](C)(C)C | C33H45ClIN3O5Si2
